2185-09-29 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2185-9-28**] 02:14 PM
   Intubated fiberoptically because RR 40s. ABG not much changed before
   intubation except RR 40.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2185-9-28**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-9-29**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 82 (81 - 105) bpm
   BP: 104/60(68) {78/49(55) - 120/68(75)} mmHg
   RR: 12 (12 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,091 mL
                                                                     94 mL
   PO:
                                                                     40 mL
             TF:
   IVF:
                                                                  1,051 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    325 mL
   Urine:
                                                                    840 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    251 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 40 cmH2O
   Plateau: 31 cmH2O
   SpO2: 99%
   ABG: 7.20/110/76.[**Numeric Identifier 126**]/37/10
   Ve: 7.2 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   634 K/uL
   10.1 g/dL
   69 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.6 mEq/L
   31 mg/dL
   91 mEq/L
   134 mEq/L
   32.1 %
   12.8 K/uL
        [image002.jpg]
                             [**2185-9-28**]  12:42 PM
                             [**2185-9-28**]  04:49 PM
                             [**2185-9-29**]  03:30 AM
   WBC
   13.1
   12.8
   Hct
   36.0
   32.1
   Plt
   654
   634
   Cr
   1.1
   1.0
   TCO2
   45
   Glucose
   110
   69
   Other labs: PT / PTT / INR:13.9/28.5/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:0.6 mmol/L,
   Albumin:3.0 g/dL, LDH:211 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR: ETT at level of lower border of clavicles. Carina is not
   well visualized.
   Massive cardiomegaly and large left pleural effusion unchanged.
   Increased
   retrocardiac opacity and left basilar opacity concerning for
   atelectasis/consolidation.
   Assessment and Plan
   65-M w/ CAD s/p cardiac arrest, idiopathic vocal cord paralysis, morbid
   obesity, likely OSA +/- obesity-hypoventilation syndrome, transferred
   to the MICU for respiratory failure [**3-5**] displaced trache.
   .
   #. Respiratory failure - Pt transferred from floor w/ hypercarbic
   respiratory failure after acute hypoxic and unresponsive event
   overnight. ABG 7.21/105/76 likely represents acute on chronic
   hypercarbic respiratory failure with acute hypoxia. CXR from admit c/w
   pulmonary arterial hypertension w/o congestive heart failure. CTA
   ruled-out PE. Started on treatment for pneumonia Pt failed trial of
   non-invasive ventilation on arrival to ICU.
   - IP consult for replacement of trache
   - follow serial ABGs
   - cont supplemental O2 at 3L NC, holding non-invasive ventilation
   - consider intubation if ABGs or clinical status worsening while pt
   awaits OR for trache
   .
   #. Leukocytosis - Pt started on Levofloxacin in ED for ? pneumonia,
   although not noted on CXR or CTA. WBC trending downward on
   Levofloxacin, although no clear source. UA negative; Blood and urine Cx
   pending.
   - cont Levo (day 3)
   - f/u culture data
   .
   #. Hyponatremia - Pt w/ persistent hyponatremia. Notes suggest that pt
   was being treated as hypervolemic hyponatremia on the floor, although
   urine studies appeared pre-renal and pt's furosemide dose was
   decreased. Pt's relative hypotension and rise in creatinine today also
   suggestive of pre-renal fluid status.
   - hold Lasix
   - follow creatinine
   - cont lisinopril for now, consider holding if creatinine worsens
   - consider IV fluids
   .
   #. CAD - Pt has h/o CAD s/p cardiac arrest. Ruled-out for MI on admit
   w/ 2 sets negative CEs.
   - continue home BB, ASA, lisinopril
   - hold Lasix as above
   - consider holding lisinopril if creatinine worsens
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-9-28**] 12:37 PM
   20 Gauge - [**2185-9-28**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-09-29 10:42:00 Physician Attending Progress Note
Chief Complaint: hypercarbic respiraotyr failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2185-9-28**] 02:14 PM
   Patient intubated last night for worsening respiratory status awaiting
   trach.
   History obtained from [**Hospital 1330**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2185-9-28**] 06:30 PM
   Other medications:
   lasix
   atenolol
   colace
   lisinopril
   albuterol
   asa
   omeprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-9-29**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 91 (81 - 105) bpm
   BP: 125/67(82) {78/49(55) - 125/68(82)} mmHg
   RR: 14 (12 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,091 mL
                                                                    136 mL
   PO:
                                                                     40 mL
             TF:
   IVF:
                                                                  1,051 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    405 mL
   Urine:
                                                                    840 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    251 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 41 cmH2O
   Plateau: 31 cmH2O
   SpO2: 97%
   ABG: 7.41/60/66
   Ve: 7.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   634 K/uL
   69 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.6 mEq/L
   31 mg/dL
   91 mEq/L
   134 mEq/L
   32.1 %
   12.8 K/uL
        [image002.jpg]
                             [**2185-9-28**]  12:42 PM
                             [**2185-9-28**]  04:49 PM
                             [**2185-9-29**]  03:30 AM
   WBC
   13.1
   12.8
   Hct
   36.0
   32.1
   Plt
   654
   634
   Cr
   1.1
   1.0
   TCO2
   45
   Glucose
   110
   69
   Other labs: PT / PTT / INR:13.9/28.5/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:0.6 mmol/L,
   Albumin:3.0 g/dL, LDH:211 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR: Large left effusion.
   Assessment and Plan
   Acute on chronic hypercapneic respiratory failure.  Displaced trach.
   likely still needs night time ventilation.  Will get trach today.
             Severe OSH/OHS, also has evidence of obstruction - autopeep,
   Pk-plateau of 13cm albuterol/atrovent
   Will d/c levoflox as no evidence of PNA.
   Fluid overload - diuresis after OR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-9-28**] 12:37 PM
   20 Gauge - [**2185-9-28**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-09-30 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2185-9-29**] 06:06 PM
 OR RECEIVED - At [**2185-9-29**] 07:30 PM
   returned from the or
   Returned from the OR for trach placement sedated and hypotensive to
   60s/40s. Responded to fluid bolus and turning down sedation.
   Developed [**Doctor Last Name **] rash - most likely a drug rash to levofloxacin
   Still NPO. S&S today
said will get speech valve on Tuesday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2185-9-29**] 03:00 PM
   Furosemide (Lasix) - [**2185-9-29**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-9-30**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 93 (82 - 107) bpm
   BP: 114/57(71) {62/38(40) - 131/73(87)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,147 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                  1,122 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    720 mL
   Urine:
                                                                  1,100 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -43 mL
                                                                   -645 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 39 cmH2O
   Plateau: 30 cmH2O
   SpO2: 95%
   ABG: 7.43/63/65/39/13
   Ve: 6.1 L/min
   PaO2 / FiO2: 163
   Physical Examination
   GEN: NAD. Lying in bed.
   HEENT: NC/AT Intubated.
   LUNGS: Decreased BS bilaterally. Poor respiratory effort when off the
   vent
   HEART: Distant heart sounds
   ABD: obese.
   Skin: Confleunt erythematous blanching rash over extremities and
   abdomen
   NEURO: Alert. Follows commands
   Labs / Radiology
   605 K/uL
   10.6 g/dL
   69 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.2 mEq/L
   26 mg/dL
   93 mEq/L
   136 mEq/L
   32.0 %
   12.3 K/uL
        [image002.jpg]
   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
   [1][**2185-9-30**] 12:10AM
                                     ART
                                    36.2
                                     12/
                                     600
                                      5
                                     40
   65*
                                   63*[1]
                                    7.43
                                   43*[1]
                                     13
                                ASSIST/CON[2]
                                  INTUBATED
                             [**2185-9-28**]  12:42 PM
                             [**2185-9-28**]  04:49 PM
                             [**2185-9-29**]  03:30 AM
                             [**2185-9-29**]  12:00 PM
                             [**2185-9-29**]  02:00 PM
                             [**2185-9-30**]  12:10 AM
                             [**2185-9-30**]  03:30 AM
   WBC
   13.1
   12.8
   12.3
   Hct
   36.0
   32.1
   32.0
   Plt
   654
   634
   605
   Cr
   1.1
   1.0
   0.8
   TCO2
   45
   43
   Glucose
   110
   69
   85
   69
   69
   Other labs: PT / PTT / INR:13.9/28.5/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.0 g/dL, LDH:211 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   65-M w/ CAD s/p cardiac arrest, idiopathic vocal cord paralysis, morbid
   obesity, likely OSA +/- obesity-hypoventilation syndrome, transferred
   to the MICU for respiratory failure [**3-5**] displaced trache.
   #. Respiratory failure - Pt transferred from floor w/ hypercarbic
   respiratory failure after acute hypoxic and unresponsive event. ABG
   7.21/105/76 likely represents acute on chronic hypercarbic respiratory
   failure with acute hypoxia. ABG now 7.43/63/65 which seems to be his
   BL. CXR from admit c/w pulmonary arterial hypertension w/o congestive
   heart failure. CTA ruled-out PE. Started on treatment for pneumonia Pt
   failed trial of non-invasive ventilation on arrival to ICU. Intubated
   for Inc RR.
   -          replacement of trach in OR yesterday
   -          Will shoot for goal PCO2 of 70 as most likely lives at
   higher PCO2 and his spontaneous RR is low at the moment.
   -          [**Name2 (NI) 133**] decrease Tidal volume as RR only 12 now.
   #.Fluid overload: On 40mg lasix at home held for prodecure since PO.
   Received IV afterwards with good effect.
   - Will give 40mg IV now with goal neg 1 L
   #. Leukocytosis - Pt started on Levofloxacin in ED for ? pneumonia,
   although not noted on CXR or CTA. WBC trending downward on
   Levofloxacin, although no clear source. UA negative; Urine culture with
   skin organisms
 no need to treat. Blood cultures pending, but negative
   so far. Pt developed a rash on levo
   - D/C
d levo
   - f/u culture data and start abx if anything becomes positive
   #. CAD - Pt has h/o CAD s/p cardiac arrest. Ruled-out for MI on admit
   w/ 2 sets negative CEs.
   - continue home BB, ASA, lisinopril once taking POs
   - Lasix after OR IV
   - consider holding lisinopril if creatinine worsens
   ICU Care
   Nutrition: Will re-assess over weekend. Might need TF at very low rate
   over weekend if nutrition can
t consult.
   Glycemic Control:  Comments: NPO
   Lines:
   18 Gauge - [**2185-9-28**] 12:37 PM
   20 Gauge - [**2185-9-28**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending wean off vent
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);

2185-09-30 11:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient received trach today.
   24 Hour Events:
 OR SENT - At [**2185-9-29**] 06:06 PM
 OR RECEIVED - At [**2185-9-29**] 07:30 PM
   returned from the or
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2185-9-29**] 03:00 PM
   Furosemide (Lasix) - [**2185-9-29**] 10:30 PM
   Other medications:
   lopressor
   lisinopril
   albuterol
   asa
   omeprazole
   hep s/q
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-9-30**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 100 (83 - 114) bpm
   BP: 121/70(83) {62/38(40) - 131/73(87)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,147 mL
                                                                    144 mL
   PO:
             TF:
   IVF:
                                                                  1,122 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    965 mL
   Urine:
                                                                  1,100 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -43 mL
                                                                   -821 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 39 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.43/63/65/39/13
   Ve: 6.1 L/min
   PaO2 / FiO2: 163
   Physical Examination
   Lungs: B/L Rhonchi
   CV:  RRR s1 and s2
   Peripheral Vascular: 2+edema
   Skin:  warm
   Neurologic: Responds to: Not voice, moving all extremities
   Labs / Radiology
   10.6 g/dL
   605 K/uL
   69 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.2 mEq/L
   26 mg/dL
   93 mEq/L
   136 mEq/L
   32.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2185-9-28**]  12:42 PM
                             [**2185-9-28**]  04:49 PM
                             [**2185-9-29**]  03:30 AM
                             [**2185-9-29**]  12:00 PM
                             [**2185-9-29**]  02:00 PM
                             [**2185-9-30**]  12:10 AM
                             [**2185-9-30**]  03:30 AM
   WBC
   13.1
   12.8
   12.3
   Hct
   36.0
   32.1
   32.0
   Plt
   654
   634
   605
   Cr
   1.1
   1.0
   0.8
   TCO2
   45
   43
   Glucose
   110
   69
   85
   69
   69
   Other labs: PT / PTT / INR:13.9/28.5/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.0 g/dL, LDH:211 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   Respiratory failure:  Trach replaced yesterday.  Decrease Vt 400.  Can
   increase rate as need.  Target pCO2 of 75.
   Fluid overload:  Diurese 1L negative.
   Leukocytosis resolved.
   S+S:  Will try to get PMV today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-9-28**] 12:37 PM
   20 Gauge - [**2185-9-28**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-10-01 06:09:00 Physician Resident Progress Note
24 Hour Events:
   Allergies:
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-9-30**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2185-9-30**] 08:00 PM
   Pantoprazole (Protonix) - [**2185-10-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-1**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 103 (96 - 119) bpm
   BP: 120/69(81) {93/53(62) - 145/102(110)} mmHg
   RR: 23 (12 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                    236 mL
                                                                    575 mL
   PO:
             TF:
   IVF:
                                                                    236 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                    160 mL
   Urine:
                                                                  2,955 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,719 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 600) mL
   Vt (Spontaneous): 0 (0 - 241) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/63/67//13
   Ve: 6.5 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   579 K/uL
   10.6 g/dL
   76 mg/dL
   0.8 mg/dL
   39 mEq/L
   3.8 mEq/L
   26 mg/dL
   93 mEq/L
   136 mEq/L
   32.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2185-9-28**]  12:42 PM
                             [**2185-9-28**]  04:49 PM
                             [**2185-9-29**]  03:30 AM
                             [**2185-9-29**]  12:00 PM
                             [**2185-9-29**]  02:00 PM
                             [**2185-9-30**]  12:10 AM
                             [**2185-9-30**]  03:30 AM
                             [**2185-9-30**]  01:44 PM
                             [**2185-9-30**]  10:19 PM
                             [**2185-10-1**]  04:15 AM
   WBC
   13.1
   12.8
   12.3
   12.7
   Hct
   36.0
   32.1
   32.0
   32.3
   Plt
   654
   634
   605
   579
   Cr
   1.1
   1.0
   0.8
   TCO2
   45
   43
   43
   43
   Glucose
   110
   69
   85
   69
   69
   76
   Other labs: PT / PTT / INR:14.0/24.5/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:211 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-9-28**] 12:37 PM
   20 Gauge - [**2185-10-1**] 04:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-10-01 08:12:00 Physician Resident Progress Note
24 Hour Events:
   - Attempted to wean vent; subjectively pt was fine, however, difficulty
   with sats
   - Multiple changes to vent to find optimal settings
   - Will need to place NGT today for nutrition and po pain meds
   - 40mg IV lasix
 neg 640 net
   - has not received his po med
   Allergies:
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-9-30**] 08:00 PM
   Pantoprazole (Protonix) - [**2185-10-1**] 12:00 AM
   Furosemide (Lasix) - [**2185-10-1**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-1**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 93 (93 - 119) bpm
   BP: 137/70(85) {93/53(62) - 145/102(110)} mmHg
   RR: 18 (12 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    236 mL
                                                                    533 mL
   PO:
             TF:
   IVF:
                                                                    236 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                    820 mL
   Urine:
                                                                  2,955 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,719 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 500) mL
   Vt (Spontaneous): 0 (0 - 241) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 92%
   ABG: 7.43/63/67/37/13
   Ve: 6.5 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Gen: arousable to voice and touch;  attempts to communicates
   Skin: erythematous eruption diffusely, improving compared to yesterday
   Pulm: moving air well
   Abd: soft, obese
   Ext: edema in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   579 K/uL
   10.6 g/dL
   79 mg/dL
   0.8 mg/dL
   37 mEq/L
   4.4 mEq/L
   21 mg/dL
   92 mEq/L
   137 mEq/L
   32.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2185-9-28**]  12:42 PM
                             [**2185-9-28**]  04:49 PM
                             [**2185-9-29**]  03:30 AM
                             [**2185-9-29**]  12:00 PM
                             [**2185-9-29**]  02:00 PM
                             [**2185-9-30**]  12:10 AM
                             [**2185-9-30**]  03:30 AM
                             [**2185-9-30**]  01:44 PM
                             [**2185-9-30**]  10:19 PM
                             [**2185-10-1**]  04:15 AM
   WBC
   13.1
   12.8
   12.3
   12.7
   Hct
   36.0
   32.1
   32.0
   32.3
   Plt
   654
   634
   605
   579
   Cr
   1.1
   1.0
   0.8
   0.8
   TCO2
   45
   43
   43
   43
   Glucose
   110
   69
   85
   69
   69
   76
   79
   Other labs: PT / PTT / INR:14.0/24.5/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.1 g/dL, LDH:211 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   65-M w/ CAD s/p cardiac arrest, idiopathic vocal cord paralysis, morbid
   obesity, likely OSA +/- obesity-hypoventilation syndrome, transferred
   to the MICU for respiratory failure [**3-5**] displaced trache.
   #. Respiratory failure - Pt transferred from floor w/ hypercarbic
   respiratory failure after acute hypoxic and unresponsive event. ABG
   7.21/105/76 likely represents acute on chronic hypercarbic respiratory
   failure with acute hypoxia.  CXR from admit c/w pulmonary arterial
   hypertension w/o congestive heart failure. CTA ruled-out PE. Started on
   treatment for pneumonia Pt failed trial of non-invasive ventilation on
   arrival to ICU. Intubated for Inc RR.
   -          replacement of trach in OR
   -          Will shoot for goal PCO2 of 70 as most likely lives at
   higher PCO2 and his spontaneous RR is low at the moment.
   -          [**Name2 (NI) 51**] need to go to a rehab for vent weaning.  Need to contact
   case management for help with possible placement.
   -          Should sit up in chair to optimize breathing
   -          Had CTA to r/o PE which incidentally showed lipomatosis of
   mediastinum
   #.Fluid overload: Takes 80mg po Lasix at home.  Gave 40mg IV lasix with
   neg net 640.  goal will be net neg 1L per day
   #. Leukocytosis - Pt started on Levofloxacin in ED for ? pneumonia,
   although not noted on CXR or CTA. WBC trending downward on
   Levofloxacin, although no clear source. UA negative; Urine culture with
   skin organisms
 no need to treat. Blood cultures pending, but negative
   so far. Pt developed a skin rash and this was thought to be due to
   levaquin.  Given that the levaquin was not treating anything
   specificially, as well as causing a rash, it was discontinued.
   #. CAD - Pt has h/o CAD s/p cardiac arrest. Ruled-out for MI on admit
   w/ 2 sets negative CEs.
   - continue home BB, ASA, lisinopril thru NGT
   - consider holding lisinopril if creatinine worsens
   ICU Care
   Nutrition: Will need an NGT placed today for tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-9-28**] 12:37 PM
   20 Gauge - [**2185-10-1**] 04:15 AM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-10-02 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Was neg one liter without extra lasix - gets 40mg IV QAM.
   Pulled out NGT the minute it was placed. Does not want one. Explained
   the risks/benefits of not having one and he still does not want it.
   Noted in chart.
   Tried weaning off vent but then had to be put back on AC.
   Had some hypoglycemia. Placed on D51/2NS at 50mL for maintenance since
   not eating and no NGT feeds.
   TTE pending - not done yesterday.
   Got up to the chair with [**Last Name **] problem.
   [**Name (NI) 1383**] management cannot screen him for pulm rehab placement until
   Tuesday.
   Allergies:
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-10-1**] 06:10 AM
   Pantoprazole (Protonix) - [**2185-10-2**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-10-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-2**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 107 (93 - 115) bpm
   BP: 113/59(69) {113/52(68) - 151/83(100)} mmHg
   RR: 25 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,011 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                  1,011 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  2,017 mL
                                                                    148 mL
   Urine:
                                                                  2,017 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,006 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 281 (281 - 557) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 21 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   618 K/uL
   10.7 g/dL
   84 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.2 mEq/L
   19 mg/dL
   92 mEq/L
   137 mEq/L
   32.3 %
   16.9 K/uL
        [image002.jpg]
                             [**2185-9-28**]  04:49 PM
                             [**2185-9-29**]  03:30 AM
                             [**2185-9-29**]  12:00 PM
                             [**2185-9-29**]  02:00 PM
                             [**2185-9-30**]  12:10 AM
                             [**2185-9-30**]  03:30 AM
                             [**2185-9-30**]  01:44 PM
                             [**2185-9-30**]  10:19 PM
                             [**2185-10-1**]  04:15 AM
                             [**2185-10-2**]  03:17 AM
   WBC
   12.8
   12.3
   12.7
   16.9
   Hct
   32.1
   32.0
   32.3
   32.3
   Plt
   634
   605
   579
   618
   Cr
   1.0
   0.8
   0.8
   0.8
   TCO2
   45
   43
   43
   43
   Glucose
   69
   85
   69
   69
   76
   79
   84
   Other labs: PT / PTT / INR:14.0/26.3/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.3 g/dL, LDH:211 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   CXR:
   65-M w/ CAD s/p cardiac arrest, idiopathic vocal cord paralysis, morbid
   obesity, likely OSA +/- obesity-hypoventilation syndrome, transferred
   to the MICU for respiratory failure [**3-5**] displaced trache.
   #. Respiratory failure - Pt transferred from floor w/ hypercarbic
   respiratory failure after acute hypoxic and unresponsive event. ABG
   7.21/105/76 likely represents acute on chronic hypercarbic respiratory
   failure with acute hypoxia.  CXR from admit c/w pulmonary arterial
   hypertension w/o congestive heart failure. CTA ruled-out PE. Started on
   treatment for pneumonia Pt failed trial of non-invasive ventilation on
   arrival to ICU. Intubated for Inc RR.
   -          replacement of trach in OR
   -          Will shoot for goal PCO2 of 70 as most likely lives at
   higher PCO2 and his spontaneous RR is low at the moment.
   -          [**Name2 (NI) 51**] need to go to a rehab for vent weaning.  case management
   to screen on Tuesday for help with possible placement.
   -          up to chair to optimize breathing
   -          Had CTA to r/o PE which incidentally showed lipomatosis of
   mediastinum
   #.Fluid overload: Takes 80mg po Lasix at home.  40mg IV lasix QD.  goal
   will be net neg 1L per day
   #. Leukocytosis - Pt started on Levofloxacin in ED for ? pneumonia,
   although not noted on CXR or CTA. WBC trending downward on
   Levofloxacin, although no clear source. UA negative; Urine culture with
   skin organisms
 no need to treat. Blood cultures pending, but negative
   so far. Pt developed a skin rash and this was thought to be due to
   levaquin.  Given that the levaquin was not treating anything
   specificially, as well as causing a rash, it was discontinued.
   #. CAD - Pt has h/o CAD s/p cardiac arrest. Ruled-out for MI on admit
   w/ 2 sets negative CEs.
   - continue home BB, ASA, lisinopril thru NGT
   - consider holding lisinopril if creatinine worsens
   ICU Care
   Nutrition: Refuses to have NGT so will not get nutrition until at least
   Tuesday.
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-9-28**] 12:37 PM
   20 Gauge - [**2185-10-1**] 04:15 AM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code

2185-10-03 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Concern for Cdiff, therefore started on metronidazole empirically.
   WBC dropped slightly from 16.9 to 15.7
   Cdiff toxin negative x 1
   Sputum growing gram positive rods
   This am, has some possible altered mental status.  Unclear if actual
   because not fully able to understand pt [**3-5**] to trach
   Allergies:
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2185-10-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-10-3**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-10-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-3**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 96 (88 - 114) bpm
   BP: 140/77(91) {99/52(72) - 151/96(101)} mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,410 mL
                                                                    495 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    495 mL
   Blood products:
   Total out:
                                                                  1,513 mL
                                                                    220 mL
   Urine:
                                                                  1,513 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 420 (396 - 1,311) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.50/45/108/33/10
   Ve: 19.9 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Gen: awake, alert, attempting to talk/signing
   Chest: coarse bs bilat
   CV: distant heart sounds, difficult to auscultate
   Abd: obese, soft
   Ext: no rash noted, skin dry
   Labs / Radiology
   597 K/uL
   10.4 g/dL
   79 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.4 mEq/L
   19 mg/dL
   95 mEq/L
   139 mEq/L
   32.9 %
   15.7 K/uL
         [image002.jpg]
                             [**2185-9-30**]  12:10 AM
                             [**2185-9-30**]  03:30 AM
                             [**2185-9-30**]  01:44 PM
                             [**2185-9-30**]  10:19 PM
                             [**2185-10-1**]  04:15 AM
                             [**2185-10-2**]  03:17 AM
                             [**2185-10-2**]  10:00 AM
                             [**2185-10-2**]  02:00 PM
                             [**2185-10-3**]  02:54 AM
                             [**2185-10-3**]  03:24 AM
   WBC
   12.3
   12.7
   16.9
   15.7
   Hct
   32.0
   32.3
   32.3
   32.9
   Plt
   [**Telephone/Fax (3) 1399**]97
   Cr
   0.8
   0.8
   0.8
   0.7
   TCO2
   43
   43
   43
   36
   Glucose
   69
   76
   79
   84
   97
   93
   79
   Other labs: PT / PTT / INR:14.0/26.3/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.3 g/dL, LDH:211 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Free Ca++ 1.1
   Assessment and Plan
   65-M w/ CAD s/p cardiac arrest, idiopathic vocal cord paralysis, morbid
   obesity, likely OSA +/- obesity-hypoventilation syndrome, transferred
   to the MICU for respiratory failure [**3-5**] displaced trach.  Trach
   replaced in the OR on [**9-29**] following intubation for hypercapnic resp
   failure.
   #. Respiratory failure - Pt transferred from floor w/ hypercarbic
   respiratory failure after acute hypoxic and unresponsive event. ABG
   7.21/105/76 likely represents acute on chronic hypercarbic respiratory
   failure with acute hypoxia.  CXR from admit c/w pulmonary arterial
   hypertension w/o congestive heart failure. CTA ruled-out PE. Started on
   treatment for pneumonia Pt failed trial of non-invasive ventilation on
   arrival to ICU. Intubated for Inc RR.
   -          replacement of trach in OR
   -          up to chair to optimize breathing
   -          Had CTA to r/o PE which incidentally showed lipomatosis of
   mediastinum
   -          Pt is currently alkalemic.  [**Month (only) 51**] be metabolic as bicarp
   increased to 33.  His pCO2 is down from goal of 70 to 45 which is lower
   than expected.
   #.Fluid overload: Takes 80mg po Lasix at home.  40mg IV lasix QD.  goal
   will be net neg 1L per day
   # Tachycardia:
   -          [**Month (only) 51**] be [**3-5**] to beta blocker withdrawal.  Will restart BB, 5
   mg atenolol IV q 6hr.
   # Altered mental status:
   -          Unclear if actual
   -          Check EKG for prolonged QT.  If wnl, can give low dose
   Haldol, 0.5mg for agitation.  Avoid BDZ at this time.
   #. Leukocytosis - Pt started on Levofloxacin in ED for ? pneumonia,
   although not noted on CXR or CTA. WBC trending downward on
   Levofloxacin, although no clear source. UA negative; Urine culture with
   skin organisms
 no need to treat. Blood cultures pending, but negative
   so far. Pt developed a skin rash and this was thought to be due to
   levaquin.  Given that the levaquin was not treating anything
   specificially, as well as causing a rash, it was discontinued.
   - Now with diarrhea, started metronidazole for empiric Cdiff coverage
   and sending stool assays for Cdiff colitis
   - Mild improvement in leukocytosis on metronidazole after a day
   - Sputum gram stain showed gram positive rods.  [**Month (only) 51**] be OP contaminant.
   Will continue to follow.
   #. CAD - Pt has h/o CAD s/p cardiac arrest. Ruled-out for MI on admit
   w/ 2 sets negative CEs.
   - Have been holding BB, ASA, lisinopril  [**3-5**] lack of PO access.  Will
   restart BB today ([**10-3**])
   #. FEN: Currently NPO [**3-5**] lack of PO access and Pt refuses NG tube or
   OG tube. Receiving maintenance fluids
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2185-9-28**] 12:37 PM
   20 Gauge - [**2185-10-1**] 04:15 AM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU vs LTAC

2185-10-04 05:58:00 Physician Resident Progress Note
24 Hour Events:
   - On trach collar all day yesterday.  Did not require vent overnight.
   9pm ABG 7.42/54/120
   - Very difficult to understand pt's speech.  Speech/swallow need to see
   pt today to eval for Passy-Muir Valve.
   - Pt remains NPO
   - C. diff toxin neg x 2.  Treating empirically with flagyl
   - Sputum growing GPR, ? contaminant
   - was tachycardic yesterday morning, thought to be [**3-5**] beta blocker
   withdrawal.  Restarted IV atenolol 5 mg q 6hr
   - EKG did not show incr QT --> ok to use Haldol for agitation (has not
   required any)
   - Did give pt [**Name (NI) 1410**] [**Name (NI) 1411**] to aid with sleep
   - Attempted to contact pt
s friend, [**Name (NI) 1412**] [**Name (NI) 1413**].  Was unsuccessful.
   Pt requests that we try again today.
   Allergies:
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2185-10-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-10-3**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2185-10-3**] 10:00 PM
   Pantoprazole (Protonix) - [**2185-10-3**] 11:30 PM
   Metoprolol - [**2185-10-4**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-4**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 97 (91 - 115) bpm
   BP: 126/70(83) {104/14(47) - 151/97(109)} mmHg
   RR: 26 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,265 mL
                                                                    309 mL
   PO:
             TF:
   IVF:
                                                                  1,265 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    790 mL
   Urine:
                                                                  2,150 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -885 mL
                                                                   -481 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/54/120/35/9
   Ve: 6.7 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse:
   [**2-2**]+) Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  No jaundice or rashes.
   CV:  RRR, no m/r/g
   Pulm:  Transmitted upper airway sounds throughout.  Trace basilar
   crackles.
   Abd: Obese, mildly distended, non-tender
   Ext: 1+ LE edema
   Neurologic:  Appropriate, but difficult to understand [**3-5**] voice.
   Labs / Radiology
   664 K/uL
   11.5 g/dL
   81 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.8 mEq/L
   13 mg/dL
   98 mEq/L
   140 mEq/L
   36.1 %
   14.0 K/uL
        [image002.jpg]
                             [**2185-9-30**]  01:44 PM
                             [**2185-9-30**]  10:19 PM
                             [**2185-10-1**]  04:15 AM
                             [**2185-10-2**]  03:17 AM
                             [**2185-10-2**]  10:00 AM
                             [**2185-10-2**]  02:00 PM
                             [**2185-10-3**]  02:54 AM
                             [**2185-10-3**]  03:24 AM
                             [**2185-10-3**]  09:11 PM
                             [**2185-10-4**]  03:30 AM
   WBC
   12.7
   16.9
   15.7
   14.0
   Hct
   32.3
   32.3
   32.9
   36.1
   Plt
   579
   618
   597
   664
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   43
   43
   36
   36
   Glucose
   76
   79
   84
   97
   93
   79
   81
   Other labs: PT / PTT / INR:13.7/25.3/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.3 g/dL, LDH:211 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   CXR: mildly increased pulmonary edema
   Assessment and Plan
   65-M w/ transferred to the MICU for hypercapnic respiratory failure
   after acute hypoxic event [**3-5**] displaced trach.  Trach replaced in the
   OR on [**9-29**] although he required intubation in the interim.
   #. Respiratory failure - At transfer, ABG was 7.21/105/76 thought to
   represent acute on chronic hypercarbic respiratory failure with acute
   hypoxia.  CXR from admit did not suggest congestive heart failure. CTA
   ruled-out PE. Started on treatment for pneumonia.  Pt failed trial of
   non-invasive ventilation on arrival to ICU and was ultimately
   intubated.
   -Trach replaced in the OR on [**9-29**].  He has intermittently required vent
   support since replacement.  Have been working with respiratory to find
   optimal settings.  Goal pCO2 is approx 70.  The ABG from the morning of
   [**10-3**] showed a pCO2 of 45, which is lower than desired.  He was on trach
   collar all day and his pm ABG was 7.42/54/120.
   -up to chair to optimize breathing
   -Had CTA to r/o PE which incidentally showed lipomatosis of mediastinum
   -Pt is currently alkalemic.  [**Month (only) 51**] be metabolic as bicarb increased to
   33.
   -Pt still needs passy muir valve fitting.  Speech and swallow to see
   today.  Goal is to advance pt to a po diet.
   #.Fluid overload: Takes 80mg po Lasix at home.  40mg IV lasix QD.  Has
   been down 5L since admission.
   - Goal is net neg 1L per day.
   - Last 24 hrs, net neg approx 900cc, will continue IV 40 mg lasix
   # Tachycardia:  Patient has mild tachycardia that may be [**3-5**] to beta
   blocker withdrawal.  Will reassess once back on home regimen.
   - Restarted 5 mg atenolol IV q 6hr on [**10-3**].
   # Altered mental status:  Difficult to assess given as pt not received
   passy-muir valve yet and has hard-to understand speech.  EKG was
   normal, so Haldol could be used.  Patient responded well to [**Month/Day (4) 1410**] and
   can use this for insomnia.
   - Requested something to help with sleep and gave one time dose of
   [**Month/Day (4) 1410**].
   #. Leukocytosis - Pt started on Levofloxacin in ED for ? pneumonia,
   although not noted on CXR or CTA. WBC trend downward on Levofloxacin.
    Pt developed a skin rash and this was thought to be due to levaquin.
   Given that the levaquin was not treating anything specificially, as
   well as causing a rash, it was discontinued.
   - UA negative; Urine culture with skin organisms
 no need to treat.
   - Blood cultures pending, but negative so far.
   - Now with diarrhea, started metronidazole for empiric Cdiff coverage.
   C. diff toxin neg x 2.  Today will be 3rd test.
   - Mild improvement in leukocytosis on metronidazole after a day
   - Sputum gram stain showed gram positive rods.  [**Month (only) 51**] be OP contaminant.
   Will continue to follow.
   #. CAD - Pt has h/o CAD s/p cardiac arrest. Ruled-out for MI on admit
   w/ 2 sets negative CEs.
   -Have been holding BB, ASA, lisinopril  [**3-5**] lack of PO
   access.  Restarted BB on [**10-3**]
   #. FEN: Currently NPO [**3-5**] lack of PO access and Pt refuses NG tube or
   OG tube. Receiving maintenance fluids.
   # Access:
   - Very difficult to obtain access
   # Contact:
   - Pt requested that we call a friend, [**Name (NI) 1412**] [**Name (NI) 1414**] at [**Telephone/Fax (1) 1415**].
   Placed call, however, the number is to a sheriff's office which was
   closed for the holiday.  Will reattempt today.  Only open from 8AM to
   4PM.
   #Dispo:
   - Did not require use of vent overnight.  [**Month (only) 51**] be able to go to floor
   today.  Also, consider consulting case management if pt will not be
   able to be d/c
ed to home
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Foley
   20 Gauge - [**2185-10-3**] 09:00 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Will discuss with case management.  Patient would be clear
   to go to floor or pulm rehab if stable overnight.

2185-10-05 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PMV placed
   Diet advanced
   Discussed with nursing home.  Had been off O2 for weeks prior to [**9-26**]
   Allergies:
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2185-10-5**] 03:54 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-10-4**] 09:28 PM
   Pantoprazole (Protonix) - [**2185-10-5**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-5**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 104 (88 - 122) bpm
   BP: 127/68(83) {98/12(43) - 142/96(104)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                    560 mL
                                                                    169 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    500 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    911 mL
   Urine:
                                                                  1,480 mL
                                                                    911 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -920 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   640 K/uL
   11.6 g/dL
   103 mg/dL
   0.8 mg/dL
   37 mEq/L
   4.0 mEq/L
   17 mg/dL
   101 mEq/L
   143 mEq/L
   36.2 %
   12.0 K/uL
        [image002.jpg]
                             [**2185-10-1**]  04:15 AM
                             [**2185-10-2**]  03:17 AM
                             [**2185-10-2**]  10:00 AM
                             [**2185-10-2**]  02:00 PM
                             [**2185-10-3**]  02:54 AM
                             [**2185-10-3**]  03:24 AM
                             [**2185-10-3**]  09:11 PM
                             [**2185-10-4**]  03:30 AM
                             [**2185-10-4**]  03:51 PM
                             [**2185-10-5**]  04:08 AM
   WBC
   12.7
   16.9
   15.7
   14.0
   12.0
   Hct
   32.3
   32.3
   32.9
   36.1
   36.2
   Plt
   579
   618
   597
   664
   640
   Cr
   0.8
   0.8
   0.7
   0.7
   0.9
   0.8
   TCO2
   36
   36
   Glucose
   79
   84
   97
   93
   79
   81
   128
   103
   Other labs: PT / PTT / INR:13.7/25.3/1.2, ALT / AST:21/18, Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:26/24, Differential-Neuts:72.4 %,
   Lymph:10.4 %, Mono:6.3 %, Eos:10.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.3 g/dL, LDH:211 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   65-M w/ transferred to the MICU for hypercapnic respiratory failure
   after acute hypoxic event [**3-5**] displaced trach.  Trach replaced in the
   OR on [**9-29**] although he required intubation in the interim.
   #. Respiratory failure - At transfer, ABG was 7.21/105/76 thought to
   represent acute on chronic hypercarbic respiratory failure with acute
   hypoxia.  CXR from admit did not suggest congestive heart failure. CTA
   ruled-out PE. Started on treatment for pneumonia.  Pt failed trial of
   non-invasive ventilation on arrival to ICU and was ultimately
   intubated.
   -up to chair to optimize breathing
   -Had CTA to r/o PE which incidentally showed lipomatosis of mediastinum
   -check ABG prior to calling out
   #.Fluid overload: Takes 80mg po Lasix at home.  40mg IV lasix QD.  Has
   been down 6L since admission.
   - Goal is net neg 1L per day.
   - Follow CXR
   - Last 24 hrs, net neg approx 900cc, will continue IV 40 mg lasix
   # Tachycardia:  Patient has mild tachycardia that may be [**3-5**] to beta
   blocker withdrawal.  Will reassess once back on home regimen.
   - Restarted home metoprolol, atenolol restarted on [**10-3**]
   # Altered mental status:  Difficult to assess given as pt not received
   passy-muir valve yet and has hard-to understand speech.  EKG was
   normal, so Haldol could be used.  Patient responded well to Zyprexa and
   can use this for insomnia.
   - Requested something to help with sleep and gave one time dose of
   Zyprexa.
   #. Leukocytosis - Pt started on Levofloxacin in ED for ? pneumonia,
   although not noted on CXR or CTA. WBC trend downward on Levofloxacin.
    Pt developed a skin rash and this was thought to be due to levaquin.
   Given that the levaquin was not treating anything specificially, as
   well as causing a rash, it was discontinued.
   - UA negative; Urine culture with skin organisms
 no need to treat.
   - Blood cultures pending, but negative so far.
   - Now with diarrhea, started metronidazole for empiric Cdiff coverage.
   C. diff toxin neg x 2.  Today will be 3rd test.
   - Mild improvement in leukocytosis on metronidazole after a day
   - Sputum gram stain showed gram positive rods.  [**Month (only) 51**] be OP contaminant.
   Will continue to follow.
   #. CAD - Pt has h/o CAD s/p cardiac arrest. Ruled-out for MI on admit
   w/ 2 sets negative CEs.
   -Have been holding BB, ASA, lisinopril  [**3-5**] lack of PO
   access.  Restarted BB on [**10-3**]
   #. FEN: Currently NPO [**3-5**] lack of PO access and Pt refuses NG tube or
   OG tube. Receiving maintenance fluids.
   # Access:
   - Very difficult to obtain access
   # Contact:
   - Pt requested that we call a friend, [**Name (NI) 1412**] [**Name (NI) 1414**] at [**Telephone/Fax (1) 1415**].
   Placed call, however, the number is to a sheriff's office which was
   closed for the holiday.  Will reattempt today.  Only open from 8AM to
   4PM.
   #Dispo:
   - Call out.  Did not require use of vent for 36hrs.  [**Month (only) 51**] be able to go
   to floor today.  Also, consider consulting case management if pt will
   not be able to be d/c
ed to home
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-10-3**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: